US06927221B2
8-(1-Ethylpropyl)-3-iodo-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine
N-Iodosuccinimide (3.5 g, 15 mmol) was added to a solution of 8-(1-ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine (3.7 g 15 mmol) in N,N-dimethylformamide (40 mL) at room temperature, followed by stirring for one hour. Hypo water was added, and the mixture was diluted with ethyl acetate, washed with an aqueous saturated solution of ammonium chloride and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatgraphy (20-40% ethyl acetate/hexane), to give the title compound (4.37 g) as white crystals.

reactant | N-Iodosuccinimide | 15 mmol, 3.5 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 8-(1-ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine | 15 mmol, 3.7 g | C(C)C(CC)N1CCC=2C(=NC=3N(C21)N=C(C3)C)C | C15H22N4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(1-Ethylpropyl)-3-iodo-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine | 4.37 g | C(C)C(CC)N1CCC=2C(=NC=3N(C21)N=C(C3I)C)C | C15H21IN4
